US08026257B2
(±)-5-Cyclopropyl-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole.
To a suspension of (±)-5-cyclopropyl-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole (13.5 mg, 0.036 mmol) and sodium cyanoborohydride (11.2 mg, 0.178 mmol) in acetonitrile (1 mL) at 0° C. was added formalin (0.027 mL). The reaction was treated with 1 drop of acetic acid. After 5 min, a second drop of acetic acid was added and the ice bath was removed, stirring continued for another hour. The reaction was diluted with diethyl ether and washed with 1 M sodium hydroxide. The ethereal was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated. It was then purified by column chromatography (10% 2 M ammonia in MeOH/CH2Cl2) to give 10.5 mg (46.5%) as clear oil. 1H-NMR (CDCl3, 500 MHz) δ 9.63 (bs, 1H), 7.86 (s, 1H), 7.23-7.27 (m, 3H), 7.03-7.07 (m, 2H), 6.78 (s, 1H), 4.47 (q, J=5.0 Hz, 1H), 3.35 (d, J=10 Hz, 1H), 3.24 (d, J=5 Hz, 1H), 2.55-2.70 (m, 2H), 1.91-2.30 (m, 9H), 1.40 (d, J=10.0 Hz, 3H), 0.9-0.94 (m, 2H), 0.62-0.68 (m, 2H); 13C-NMR (CDCl3, 126 MHz) δ 161.5 (d, J=978 Hz), 136.2, 135.9, 133.9, 128.8, 125.9, 124.3, 123.3, 115.8, 115.6, 115.4, 78.9, 51.9, 51.7, 46.1, 40.3, 32.4, 32.3, 22.4, 15.4, 8.7; Mass spec.: 408.09 (MH)+.

reactant | (±)-5-cyclopropyl-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole | 0.036 mmol, 13.5 mg | C1(CC1)C=1C=C2C=NNC2=C(C1)C(C)OCC1(CCNCC1)C1=CC=C(C=C1)F | C24H28FN3O
reactant | sodium cyanoborohydride | 0.178 mmol, 11.2 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 0.027 mL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (±)-5-Cyclopropyl-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole | C1(CC1)C=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C25H30FN3O
